US08664210B2
2α-Fluoro-17β-hydroxyandrostan-3,6-dione
To a solution of 2α-fluoro-17β-hydroxyandrost-4-en-3,6-dione (510 mg) in acetone (76 ml), NaI (950 mg) and conc. HCl (0.51 ml) were added. The mixture was then stirred at RT for 5 min. NaHCO3 was added until neutrality. The organic layer was diluted with Et2O and washed with Na2S2O3 till the brown colour disappeared. The organic phase was washed with H2O and brine, dried over Na2SO4 and was evaporated to dryness. The crude reaction mixture was purified by flash chromatography (SiO2, n-hexane/DCM/acetone 5/3/2) to give the title compound in 72% yield.

reactant | 2α-fluoro-17β-hydroxyandrost-4-en-3,6-dione | 510 mg | F[C@H]1C(C=C2C(C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)O)=O)=O | C19H25FO3
reactant | NaI | 950 mg | [Na+].[I-]
reactant | HCl | 0.51 ml | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetone | 76 ml | CC(=O)C | C3H6O
solvent | Et2O | CCOCC | C4H10O
product | 2α-Fluoro-17β-hydroxyandrostan-3,6-dione | 72% yield | F[C@H]1C(CC2C(C[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)O)=O)=O | C19H27FO3
